US05977101
b) 2-Cyanoindole
A solution of indole-2-carboxamide (3.02 g, 18.8 mmol) in dichlorophenylphosphine oxide (20 mL) was heated at 80° C. overnight. The cooled reaction mixture was then poured over 100 mL ice and the pH was adjusted to 11 with 50% aqueous sodium hydroxide. Extraction with ethyl acetate followed by concentration in vacuo gave an off-white solid which was purified by silica gel chromatography (1% MeOH/CH2Cl2) to yield the title compound (2.41 g, 90%): 1H NMR (400 MHz, DMSO-d6) δ 7.68 (d, 1H), 7.46 (d, 1H), 7.36 (s, 1H), 7.34 (t, 1H), 7.14 (t, 1H).

reactant | indole-2-carboxamide | 18.8 mmol, 3.02 g | N1C(=CC2=CC=CC=C12)C(=O)N | C9H8N2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dichlorophenylphosphine oxide | 20 mL | ClP(C1=CC=CC=C1)(Cl)=O | C6H5Cl2OP
product | 2-Cyanoindole | 2.41 g, 90% | C(#N)C=1NC2=CC=CC=C2C1 | C9H6N2
